US07067529B2
To a stirred solution of 6-hydroxy-1-(3-isopropoxy-benzoyl)-7-methoxy-isoquinoline-4-carboxylic acid ethyl ester (70 mg, 0.17 mmol) in N,N dimethylformamide (2 mL) was added potassium carbonate (237 mg, 1.71 mmol) and 2-chloro-N,N-dimethyl-acetamide (0.088 mL, 0.86 mmol) at room temperature. The reaction mixture was heated 85° C. for 2 hrs. The solvent was evaporated and the crude product was diluted with ethyl acetate and water. The aqueous phase was extracted with ethyl acetate (3×20 mL). The combined extracts were washed with saturated aqueous sodium chloride solution (20 mL), dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 70–230 mesh, 30% ethyl acetate/hexane) afforded 6-dimethylcarbamoylmethoxy-1-(3-isopropoxy-benzoyl)-7-methoxy-isoquinoline-4-carboxylic acid ethyl ester. To a stirred solution of 1-(3-isopropoxy-benzoyl)-7-methoxy-6-(2-pyrrolidin-1-yl-ethoxy)-isoquinoline-4-carboxylic acid ethyl ester (73.0 mg, 0.14 mmol) in ethanol (1.0 mL) and tetrahydrofuran (0.5 mL) was added 4N aqueous sodium hydroxide (0.144 mL, 0.56 mmol) at room temperature. The mixture was heated at 60° C. for 1 h. The solvent was evaporated and the residue was diluted with dichloromethane and water. The aqueous phase was acidified to pH=3 by addition of 1N hydrochloride solution and then was extracted with dichloromethane (3×20 mL). The combined extracts were washed with saturated aqueous sodium chloride solution (20 mL), dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. The crude product recrystallized from ethyl acetate to afford 1-(3-isopropoxy-benzoyl)-7-methoxy-6-(2-pyrrolidin-1-yl-ethoxy)-isoquinoline-4-carboxylic acid as a light brown solid (28 mg, 37% yield). HR-MS m/e calcd for C23H21N1O6 (M−H+) 440.1340, found 440.1347; 1H NMR (300 MHz) compatible.

reactant | 6-hydroxy-1-(3-isopropoxy-benzoyl)-7-methoxy-isoquinoline-4-carboxylic acid ethyl ester | 0.17 mmol, 70 mg | C(C)OC(=O)C1=CN=C(C2=CC(=C(C=C12)O)OC)C(C1=CC(=CC=C1)OC(C)C)=O | C23H23NO6
reactant | potassium carbonate | 1.71 mmol, 237 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-N,N-dimethyl-acetamide | 0.86 mmol, 0.088 mL | ClCC(=O)N(C)C | C4H8ClNO
solvent | N,N dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 6-dimethylcarbamoylmethoxy-1-(3-isopropoxy-benzoyl)-7-methoxy-isoquinoline-4-carboxylic acid ethyl ester | C(C)OC(=O)C1=CN=C(C2=CC(=C(C=C12)OCC(N(C)C)=O)OC)C(C1=CC(=CC=C1)OC(C)C)=O | C27H30N2O7
